US05624901
Preparation of 3-benzyloxy-1-methyl-4-(2-thioxothiazolidin-1-yl)carbonyl-2(1H)-pyridinone (Formula 24, R1 =methyl)
To a solution of 3-benzyloxy-4-carboxy-1-methyl-2(1H)-pyridinone (1.05 g, 4 mmol), 2-mercaptothiazoline (0.50 g, 4.2 mmol) and a catalytic amount of 4-dimethylaminopyridine (DMAP) in dry methylene chloride (50 mL), N,N'-dicyclohexylcarbodiimide (DCC) (0.86 g, 4.2 mmol) is added. Alter stirring for 4 hours, the dicyclohexylurea (DCU) solids are removed by filtration, the yellow filtrate is rotary evaporated to give a yellow solid. Crystallization from isopropanol-methylene chloride gives the title compound (1.16 g, 80.4%) as bright yellow crystalline plates, m.p. 149°-150° C. 1H NMR (250 MHz, CDCl3) δ2.867 (t, 2H, J=7.32), 3.594 (s, 3H), 4.313 (t, 2H, J=7.33), 5.301 (s, 2H), 6.107 (d, 1H, J=6.99), 7.126 (d, 1H, J=7.00), 7.31-7.45 (m, 5H). Anal for C17H16N2O3S2Calcd. (found): C, 56.64 (56.36); H, 4.47 (4.47); N, 7.73 (7.73); S, 17.78 (17.41).

reactant | 3-benzyloxy-4-carboxy-1-methyl-2(1H)-pyridinone | 4 mmol, 1.05 g | C(C1=CC=CC=C1)OC=1C(N(C=CC1C(=O)O)C)=O | C14H13NO4
reactant | 2-mercaptothiazoline | 4.2 mmol, 0.50 g | SC=1SCCN1 | C3H5NS2
reactant | N,N'-dicyclohexylcarbodiimide | 4.2 mmol, 0.86 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-benzyloxy-1-methyl-4-(2-thioxothiazolidin-1-yl)carbonyl-2(1H)-pyridinone | 1.16 g, 80.4% | C(C1=CC=CC=C1)OC=1C(N(C=CC1C(=O)S1C(NCC1)=S)C)=O | C17H18N2O3S2
